US07232833B2
A solution of 0.21 g of the enantiomer A of methyl 4-[3-(2,5-difluorophenyl)-2-propenyl]-2-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-2-morpholinecarboxylate in a mixture of 10 cm3 of 1,4-dioxane, 10 cm3 of methanol and 1.22 cm3 of 5 N sodium hydroxide is heated at a temperature in the region of 80° C. with stirring and under an inert atmosphere for 12 hours. After cooling to about 20° C., the reaction medium is evaporated under reduced pressure (2 kPa; 45° C.) to give a whitish crust. The residue is taken up in 25 cm3 of dichloromethane and then 10 cm3 of distilled water and then neutralized with 1.23 cm3 of 5 N hydrochloric acid. The organic phase is dried over magnesium sulfate, filtered and then evaporated to dryness under reduced pressure (2 kPa) at a temperature in the region of 30° C. The residue obtained is purified by chromatography on a silica gel column (particle size 70–200 μm; diameter 2 cm), eluting with a mixture of chloroform-methanol-aqueous ammonia (28%) (12/3/0.5 by volume) and collecting 10 cm3 fractions. The fractions containing the expected product are combined and then evaporated according to the conditions described above. 0.13 g of the enantiomer A of 4-[3-(2,5-difluorophenyl)-2-propenyl]-2-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-2-morpholinecarboxylic acid is obtained in the form of a yellow glaze.

reactant | methyl 4-[3-(2,5-difluorophenyl)-2-propenyl]-2-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-2-morpholinecarboxylate | FC1=C(C=C(C=C1)F)C=CCN1CC(OCC1)(C(=O)OC)CCCC1=C(C=NC2=CC=C(C=C12)OC)F | C28H29F3N2O4
reactant | methanol | 10 cm3 | CO | CH4O
reactant | sodium hydroxide | 5 N, 1.22 cm3 | [OH-].[Na+]
reactant | hydrochloric acid | 5 N, 1.23 cm3 | Cl | ClH
solvent | 1,4-dioxane | 10 cm3 | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | water | 10 cm3 | O | H2O
product | 4-[3-(2,5-difluorophenyl)-2-propenyl]-2-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-2-morpholinecarboxylic acid | FC1=C(C=C(C=C1)F)C=CCN1CC(OCC1)(C(=O)O)CCCC1=C(C=NC2=CC=C(C=C12)OC)F | C27H27F3N2O4
